data/oMe_Silver.jsonl
{"reaction_id": "NR-033_1-OC(C)(C)C_2-C(=O)C_3-C(C)C_4-c1ccccc1_5-I_6-C(F)(F)F_7-C(=O)OCC","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)OC(C)(C)C","c1(C(=O)C)c(C(C)C)c(c1ccccc1)c(I)c(C(F)(F)F)c1(C(=O)OCC)"],"products_smiles": ["[CH](C(=O)OC(C)(C)C)1C(C(=O)C)=C(C(C)C)C(c1ccccc1)=C(I)C(C(F)(F)F)=C1C(=O)OCC"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC(C)(C)C)1C(C(=O)C)2C(C(C)C)=C(c1ccccc1)C(I)=C(C(F)(F)F)C2(C(=O)OCC)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)OC(C)(C)C)1C(C(=O)C)=C(C(C)C)C(c1ccccc1)=C(I)C(C(F)(F)F)=C1C(=O)OCC","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
{"reaction_id": "NR-334_1-c1ccc(OC)cc1_2-C_3-c1ccc(Cl)cc1_4-c1ccc(Br)cc1","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#Cc1ccc(OC)cc1","OC(C)(c1ccc(Cl)cc1)c1ccc(Br)cc1"],"products_smiles": ["C(=O)(NC(C)(c1ccc(Cl)cc1)c1ccc(Br)cc1)c1ccc(OC)cc1"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C)(c1ccc(Cl)cc1)c1ccc(Br)cc1","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C)(c1ccc(Cl)cc1)c1ccc(Br)cc1","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(C)(c1ccc(Cl)cc1)c1ccc(Br)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(C)(c1ccc(Cl)cc1)c1ccc(Br)cc1)([OH2+])c1ccc(OC)cc1","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(C)(c1ccc(Cl)cc1)c1ccc(Br)cc1)(O)c1ccc(OC)cc1","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(C)(c1ccc(Cl)cc1)c1ccc(Br)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
